US07163936B2
To a solution of 1-allyl 3-tert-butyl (2S)-4-hydroxy-2-[(methoxymethoxy)methyl]-1,3-pyrrolidinedicarboxylate (1.47 g, 4.26 mmol) in dichloromethane (20 ml) were added at −30° C. methanesulfonyl chloride (0.50 ml, 6.5 mmol), triethylamine (1.2 ml, 8.6 mmol) and 4-dimethylaminopyridine (52 mg, 0.43 mmol) and the mixture was stirred at 0° C. for 75 minutes. The reaction mixture was poured into diluted hydrochloric acid and the mixture was extracted three times with chloroform. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed in vacuo. The residue was dissolved in dicholomethane (10 ml) and the solution was cooled to 0° C. and thereto was added DBU (0.95 ml, 6.4 mmol). The mixture was raised to room temperature and stirred just for 30 minutes. The reaction mixture was poured into diluted hydrochloric acid and the solution was extracted three times with ethyl acetate. The organic layer was washed with water and then a saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was removed in vacuo. The residue was purified with silica gel (30 g) chromatography (hexane/ethyl acetate=4/1→2/1) to give 1-allyl 3-tert-butyl (2S)-2-[(methoxy)methyl]-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate (0.92 g, 66%).

reactant | 1-allyl 3-tert-butyl (2S)-4-hydroxy-2-[(methoxymethoxy)methyl]-1,3-pyrrolidinedicarboxylate | 4.26 mmol, 1.47 g | OC1C([C@H](N(C1)C(=O)OCC=C)COCOC)C(=O)OC(C)(C)C | C16H27NO7
reactant | methanesulfonyl chloride | 6.5 mmol, 0.50 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 8.6 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
reactant | DBU | 6.4 mmol, 0.95 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.43 mmol, 52 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-allyl 3-tert-butyl (2S)-2-[(methoxy)methyl]-2,5-dihydro-1H-pyrrole-1,3-dicarboxylate | 0.92 g, 66% | COC[C@H]1N(CC=C1C(=O)OC(C)(C)C)C(=O)OCC=C | C15H23NO5
